US07662825B2
a) (4-Hydroxymethyl-2-oxazolyl)carbamic acid tert-butyl ester
Prepared by the method of Example 120 using 2-{bis[(1,1-dimethylethoxy)carbonyl]amino}-4-oxazolcarboxylic acid, ethyl ester (0.65 g) and sodium triethylborohydride (5.5 mL of a 1M solution in tetrahydrofuran). Yield 0.24 g. Used directly.

reactant | 2-{bis[(1,1-dimethylethoxy)carbonyl]amino}-4-oxazolcarboxylic acid, ethyl ester | 0.65 g | CC(C)(OC(=O)N(C=1OC=C(N1)C(=O)OCC)C(=O)OC(C)(C)C)C | C16H24N2O7
reactant | sodium triethylborohydride | C(C)[BH-](CC)CC.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (4-Hydroxymethyl-2-oxazolyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1OC=C(N1)CO)=O | C9H14N2O4
